US06048824
Example P7: 3-(2-Chloropyrid-5-yl-methyl)-2-methylthio-1-azacyclopentene
0.6 g of 3-(2-chloropyrid-5-yl-methyl)-pyrrolide-2-thione are added to a mixture of 0.1 g of sodium hydride (50% in oil) and 10 ml of dimethylformamide. The mixture is stirred for 20 minutes at room temperature and then 0.38 g of methyl iodide is added. The reaction mixture is stirred for a further 30 minutes at room temperature, poured onto ice-water and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate and concentrated to dryness by evaporation in vacuo. The title compound is obtained in the form of an oil (compound 3.2).

reactant | 3-(2-chloropyrid-5-yl-methyl)-pyrrolide-2-thione | 0.6 g | ClC1=NC=C(C=C1)CC1C([N-]C=C1)=S
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | methyl iodide | 0.38 g | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(2-Chloropyrid-5-yl-methyl)-2-methylthio-1-azacyclopentene | ClC1=NC=C(C=C1)CC1C(=NCC1)SC | C11H13ClN2S
